US05604229
(3) 2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol
A suspension of sodium borohydride (0.60 g) and lithium bromide (1.66 g) in ethanol (17 ml) was stirred at room temperature for 25 minutes. Ethyl 2-amino-2-ethoxycarbonyl-4(4-octylphenyl)butyrate (1.24 g) was dropwise added thereto over 3 minutes and the mixture was stirred at room temperature for 5 hours. Water (40 ml) was added to the reaction mixture and the mixture was stirred for 40 minutes. The crystals precipitated was collected by filtration and dried to give 0.68 g of the subject compound, melting point=125°-126° C. Treatment of the subject compound with hydrochloric acid-ethanol gives the corresponding hydrochloride.

reactant | sodium borohydride | 0.60 g | [BH4-].[Na+]
reactant | lithium bromide | 1.66 g | [Br-].[Li+]
reactant | Ethyl 2-amino-2-ethoxycarbonyl-4(4-octylphenyl)butyrate | 1.24 g | NC(C(=O)OCC)(CCC1=CC=C(C=C1)CCCCCCCC)C(=O)OCC | C23H37NO4
reactant | Water | 40 ml | O | H2O
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 2-Amino-2-[2-(4-octylphenyl)ethyl]-1,3-propanediol | 0.68 g | NC(CO)(CO)CCC1=CC=C(C=C1)CCCCCCCC | C19H33NO2
